US09078888B2
Synthesis of 4-bromo-6,8-dihydroxy-2-(4-hydroxyphenyl) isoquinolin-1(2H)-one
4-Bromo-6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinolin-8-yl-4-(trifluoromethyl)benzoate (0.47 g, 0.86 mmol) was placed in a dry 250 mL single-necked round-bottomed flask fitted with a stirring bar and sealed with a septa. Anhydrous methylene chloride (20 mL) was added via a syringe at room temperature. BBr3 (8.60 mL of 1.0 M CH2Cl2 solution, 8.60 mmol) was added drop wise with stirring at room temperature. The resulting solution was heated to reflux for 20 hours and then stirred at room temperature for 3 days. 20 mL of water was added to quench the reaction. CH2Cl2 layer was separated and the aqueous layer was extracted with EtOAc (3×20 mL). The organic layers were combined and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The residue was purified by column chromatography (silica-gel, CH2Cl2/MeOH=9/1 v/v) to give a white solid product, 0.05 g, 16.7% yield. MS: m/e 347.8 [M−H]−. 1H NMR (DMSO-d6, 300 MHz): δ 13.12 (s, 1H), 10.78 (s, 1H), 9.81 (s, 1H), 7.75 (s, 1H), 7.28 (d, 2H, J=8.7 Hz), 6.85 (d, 2H, J=8.7 Hz), 6.61 (d, 1H, J=2.1 Hz), 6.37 (d, 1H, J=2.1 Hz).

reactant | 4-Bromo-6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinolin-8-yl-4-(trifluoromethyl)benzoate | 0.86 mmol, 0.47 g | BrC1=CN(C(C2=C(C=C(C=C12)OC)C1=C(C(=O)[O-])C=CC(=C1)C(F)(F)F)=O)C1=CC=C(C=C1)OC
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | BBr3 | 8.60 mmol, 1.0 M, 8.60 mL | B(Br)(Br)Br | BBr3
reactant | water | 20 mL | O | H2O
product | 4-bromo-6,8-dihydroxy-2-(4-hydroxyphenyl) isoquinolin-1(2H)-one | 16.7% yield | BrC1=CN(C(C2=C(C=C(C=C12)O)O)=O)C1=CC=C(C=C1)O | C15H10BrNO4
